US04634695
To a solution of 150 g of sodium hydroxide pastilles in 300 ml of water was added at room temperature a solution of 300 ml of benzene, 11.8 g of tetradecyl trimethyl ammonium bromide, 60.2 g of 4-bromoaniline and 60 ml of allyl bromide and the mixture was stirred at room temperature for 87 hours and was then extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The 89 g of oil residue was chromatographed over silica gel and eluted with cyclohexane to obtain 81.7 g of N,N-diallyl-4-bromoaniline in the form of a yellow liquid boiling at 105° C. at 0.1 mm Hg.

reactant | sodium hydroxide | 150 g | [OH-].[Na+]
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | 4-bromoaniline | 60.2 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | allyl bromide | 60 ml | C(C=C)Br | C3H5Br
solvent | water | 300 ml | O | H2O
catalyst | tetradecyl trimethyl ammonium bromide | 11.8 g | [Br-].C(CCCCCCCCCCCCC)[N+](C)(C)C
product | N,N-diallyl-4-bromoaniline | 81.7 g | C(C=C)N(C1=CC=C(C=C1)Br)CC=C | C12H14BrN
